### PR TITLE
feat(Dynamics): pointwise ergodic theorem for normed spaces

### PR DESCRIPTION
**Pull request by lua-vr**
This is #26923, but splitting the maximal theorem into a separate file (#34031) and with some cleanup. It also shows the Banach space version from the real version.

Co-authored-by: Oliver Butterley <oliver.butterley@ictp.it>

---

- [ ] depends on: #34031
- [ ] depends on: #41288
- [ ] depends on: #41286

LLM was used to fix part of the proofs after manually adapting statements to be on top of #34031, and also to write part of the proofs for the extension for normed spaces by prompting it with the desired proof. I would review what it had written, identify how some argument could be simplified or better API be used, and iterate more changes manually or by prompting it. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/BirkhoffSum/Pointwise.lean [hunk 1]
```diff
@@ -0,0 +1,378 @@
...
+/-!
+# Pointwise Ergodic Theorem
+
+The Pointwise Ergodic Theorem, also known as Birkhoff's Ergodic Theorem, establishes the convergence
+of time averages for dynamical systems.
+
+Let `(α, μ)` be a probability space and `f : α → α` be a measure-preserving transformation. The
+result states that, for any integrable function `φ ∈ L¹(μ)`, the time averages
+`(1/n)∑_{k=0}^{n-1} φ(f^k x)` converge almost everywhere as `n → ∞` to a limit function `φ*`.
+Moreover the limit function `φ*` is essentially `f`-invariant and integrable with
```
Comment (lua-vr) [inline Mathlib/Dynamics/BirkhoffSum/Pointwise.lean]: This docstring is a leftover from the other PR, and makes some (true) statements that are not shown in this file. It is also not well written as the limit here is explicit and should be mentioned.

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 2]
```diff
@@ -194,6 +194,36 @@ theorem congr_right (h : g =ᵐ[μ] g') (h_tendsto : TendstoInMeasure μ f l g)
...
 end TendstoInMeasure
 
+section AETendsto
+
+variable [PseudoMetricSpace E] {f : ℕ → α → E} {g : α → E}
+
+/-- `f n x` tends to `g x` for almost every `x` if and only if, for every `ε > 0`, the set of
+points `x` with `ε ≤ dist (f n x) (g x)` for infinitely many `n` is a null set. -/
+theorem ae_tendsto_iff_forall_measure_frequently_eq_zero :
+    (∀ᵐ x ∂μ, Tendsto (fun n ↦ f n x) atTop (𝓝 (g x))) ↔
```
Comment (lua-vr) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:204]: I think this could be derived from a more general lemma in some way, because this is only speaking about the fact that `𝓝[>] 0` is countably generated and that `Tendsto (fun n ↦ f n x) atTop (𝓝 (g x)) ↔ ∀ ε > 0, ¬ ∃ᶠ n in atTop, ε ≤ dist (f n x) (g x)`.

File: Mathlib/Dynamics/BirkhoffSum/Pointwise.lean [hunk 3]
```diff
@@ -0,0 +1,384 @@
...
+      hf.quasiMeasurePreserving.birkhoffAverage_ae_eq_of_ae_eq (R := ℝ) hae
+    have h₂ := condExp_congr_ae (m := invariants f) hae
+    filter_upwards [h₁, h₂, hg₁] with x hx₁ hx₂ hx₃
+    conv in birkhoffAverage .. => rw [← hx₁]
+    rwa [← hx₂]
+
+section Invariant
+
+omit [IsProbabilityMeasure μ] [CompleteSpace E] in
+public lemma comp_eq_condExp_invariants : μ[g | invariants f] ∘ f = μ[g | invariants f] := by
```
Comment (lua-vr) [inline Mathlib/Dynamics/BirkhoffSum/Pointwise.lean:373]: I named this thinking of `comp_eq_` as a predicate like `Measurable`, but would `condExp_invariants_comp_eq_self` be better?

**Comment by lua-vr** [comment]
t-dynamics
